US08304419B2
Step B: 6-Chloro-4-nitro-2-pyridinecarbonitrile
2-chloro-4-nitropyridine 1-oxide (1.8 g, 10.31 mmol) was slowly added to a solution of TMS-CN (4.98 ml, 37.1 mmol) in 1,2-dichloroethane (25 ml) at RT under N2 and dimethylcarbamic chloride (3.41 ml, 37.1 mmol) was then slowly added. The mixture was stirred for at RT overnight then heated to 85° C. for 5 days. The reaction was cooled RT and sat. NaHCO3 was added and then extracted with CH2Cl2. The organic was dried over Na2SO4, filtered and concentrated. The residue was purified by chromatography on silica gel eluted with 0-10% EtOAC in hexane to give the product as a white solid (0.79 g, 42%). 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 7.63 (1H, d) 7.59 (1H, d).

reactant | 2-chloro-4-nitropyridine 1-oxide | 10.31 mmol, 1.8 g | ClC1=[N+](C=CC(=C1)[N+](=O)[O-])[O-] | C5H3ClN2O3
reactant | TMS-CN | 37.1 mmol, 4.98 ml | [Si](C)(C)(C)C#N | C4H9NSi
reactant | dimethylcarbamic chloride | 37.1 mmol, 3.41 ml | CN(C(=O)Cl)C | C3H6ClNO
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | 1,2-dichloroethane | 25 ml | ClCCCl | C2H4Cl2
product | 6-Chloro-4-nitro-2-pyridinecarbonitrile | 0.79 g, 42% | ClC1=CC(=CC(=N1)C#N)[N+](=O)[O-] | C6H2ClN3O2
